US08729105B2
Preparation of 5-(4-ethylphenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid
The title compound was synthesized in analogy to Example BQ using 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1211586-75-2) and B-(4-ethylphenyl)-boronic acid, (CAN 63139-21-9) as starting materials; LC-MS (UV peak area/ESI) 95.8%, 324.0859 (M−H)−.

reactant | 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C8H5BrF3NO3
reactant | B-(4-ethylphenyl)-boronic acid | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
product | 5-(4-ethylphenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid | C(C)C1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C16H14F3NO3
